US04282361
Preparation of 3,5-Dimethyl-4-Nitropyrazole
To a solution of 3,5-dimethylpyrazole (86.5 g, 0.90 mol) in concentrated sulfuric acid (170 ml), conc nitric acid (103 ml, d=1.423) was added with stirring and icecooling. After one hour concentrated sulfuric acid (100 ml) was added slowly with stirring resulting in a temperature rise to 70°-80° C. After stirring overnight at 30°-35° C., the mixture was poured into ice (1.5 l) and neutralized with potassium hydroxide. Extraction with methylene chloride (3×350 ml), drying of the organic phase (Na2SO4) and evaporation gave off-white crystals which were dried in vacuo at 70°. Yield 106.2 g=83.6%, m.p. 125°.

reactant | 3,5-dimethylpyrazole | 0.90 mol, 86.5 g | CC1=NNC(=C1)C | C5H8N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | nitric acid | 103 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 170 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 3,5-Dimethyl-4-Nitropyrazole | CC1=NNC(=C1[N+](=O)[O-])C | C5H7N3O2
